US06329389B1
1-[2-(R)-Amino-3-(indol-3-yl)propanoyl]-3-(R,S)-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoline
Piperidine (0.66 ml) was added to a methanol (10 ml) solution of 3-(R,S)-(N,N-dimethylamino)methyl-1-[2-(R)-(9-fluorenylmethoxy)carbonylamino-3-(indol-3-yl)propanoyl]-1,2,3,4-tetrahydroquinoline (0.797 g) at room temperature. The reaction mixture was stirred at room temperature for 18 hours, then concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate/methanol=10/1) to obtain the entitled compound (0.382 g).

reactant | Piperidine | 0.66 ml | N1CCCCC1 | C5H11N
reactant | 3-(R,S)-(N,N-dimethylamino)methyl-1-[2-(R)-(9-fluorenylmethoxy)carbonylamino-3-(indol-3-yl)propanoyl]-1,2,3,4-tetrahydroquinoline | 0.797 g | CN(C)CC1CN(C2=CC=CC=C2C1)C([C@@H](CC1=CNC2=CC=CC=C12)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C38H38N4O3
solvent | methanol | 10 ml | CO | CH4O
product | 1-[2-(R)-Amino-3-(indol-3-yl)propanoyl]-3-(R,S)-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoline | 0.382 g | N[C@@H](C(=O)N1CC(CC2=CC=CC=C12)CN(C)C)CC1=CNC2=CC=CC=C12 | C23H28N4O
